US07601716B2
4-[1-(2,6-Dichlorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid ethyl ester
1-(2,6-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (231 mg) was reacted with 4-ethoxycarbonyl phenyl boronic acid as in General Procedure 4B to give the title compound as a yellow solid. M.p.=226° C., LCMS: m/z=456.52 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 1.35 (3H, t, J=6.9 Hz), 4.09 (3H, s), 4.33 (3H, q, J=7.1 Hz), 5.47 (2H, s), 7.32 (2H, m), 7.48 (2H, d, J=8.1 Hz), 7.57 (3H, m), 7.63 (1H, m), 7.90 (1H, m), 7.98 (2H, d, J=8.2 Hz), 8.03 (1H, d, J=2.0 Hz).

reactant | 1-(2,6-Dichlorobenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 231 mg | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)I)C(=CC=C1)Cl | C14H10Cl2IN3O
reactant | 4-ethoxycarbonyl phenyl boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-[1-(2,6-Dichlorobenzyl)-2-oxo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCC(N2CC2=C(C=CC=C2Cl)Cl)=O)N=C1)=O | C23H19Cl2N3O3
